* ============================================================
* Generic Single-Ended OpAmp PSRR Testbench
*
* Standard DUT interface:
*
* .subckt DUT VINP VINN VOUT VDD VSS IBIAS
*
* Metrics:
*
*   PSRR+
*   PSRR-
*
* Definitions:
*
*   PSRR+ = |VDD_ripple / VOS+|
*
*   PSRR- = |VSS_ripple / VOS-|
*
* Both DUTs operate as unity-gain followers.
* ============================================================


* ============================================================
* PDK / DUT
* ============================================================

.lib "{{PDK_PATH}}" {{CORNER}}

.include "{{DUT_PATH}}"


* ============================================================
* Temperature
* ============================================================

.temp {{TEMP}}



* ============================================================
* PSRR+ TEST
*
* Positive supply:
*
*   DC = VDD
*   AC = 1 V
*
* Negative supply:
*
*   DC = VSS
*   AC = 0
*
* VINP = VCM
* VINN = VOUT
*
* Therefore DUT operates as a unity-gain follower.
* ============================================================


* Positive supply with 1-V AC ripple

VDD_P_SRC VDD_P 0 DC {{VDD}} AC 1 0


* Quiet negative supply

VSS_P_SRC VSS_P 0 DC {{VSS}}


* Fixed non-inverting input

VINP_P_SRC INP_P 0 DC {{VCM}}


* Bias current

IBIAS_P_SRC VDD_P IBIAS_P DC {{IBIAS}}


* DUT
*
* VINP = INP_P
* VINN = OUT_P
* VOUT = OUT_P

XDUT_P
+ INP_P
+ OUT_P
+ OUT_P
+ VDD_P
+ VSS_P
+ IBIAS_P
+ DUT


* Output load

CLOAD_P OUT_P 0 {{CL}}



* ============================================================
* PSRR- TEST
*
* Positive supply:
*
*   DC = VDD
*   AC = 0
*
* Negative supply:
*
*   DC = VSS
*   AC = 1 V
*
* VINP = VCM
* VINN = VOUT
*
* ============================================================


* Quiet positive supply

VDD_N_SRC VDD_N 0 DC {{VDD}}


* Negative supply with 1-V AC ripple

VSS_N_SRC VSS_N 0 DC {{VSS}} AC 1 0


* Fixed non-inverting input

VINP_N_SRC INP_N 0 DC {{VCM}}


* Bias current

IBIAS_N_SRC VDD_N IBIAS_N DC {{IBIAS}}


* DUT

XDUT_N
+ INP_N
+ OUT_N
+ OUT_N
+ VDD_N
+ VSS_N
+ IBIAS_N
+ DUT


* Output load

CLOAD_N OUT_N 0 {{CL}}



* ============================================================
* AC Analysis
* ============================================================

.ac dec {{AC_POINTS_PER_DEC}} {{AC_START}} {{AC_STOP}}



* ============================================================
* Control
* ============================================================

.control

run

set wr_singlescale
set wr_vecnames
option numdgt=15



* ============================================================
* PSRR+
*
* Input-referred offset:
*
* VOS+ = VINP - VINN
*
* Since VINN = VOUT:
*
* VOS+ = VINP - VOUT
*
* Supply AC excitation = VDD_P = 1 V
* ============================================================

let vos_plus = v(INP_P) - v(OUT_P)

let psrr_plus = v(VDD_P) / vos_plus

let psrr_plus_db = db(psrr_plus)



* ============================================================
* PSRR-
*
* VOS- = VINP - VINN
*
* Supply AC excitation = VSS_N = 1 V
* ============================================================

let vos_minus = v(INP_N) - v(OUT_N)

let psrr_minus = v(VSS_N) / vos_minus

let psrr_minus_db = db(psrr_minus)



* ============================================================
* Reference PSRR Values
* ============================================================

meas ac psrr_plus_ref_db
+ FIND psrr_plus_db
+ AT={{PSRR_MEASURE_FREQ}}

meas ac psrr_minus_ref_db
+ FIND psrr_minus_db
+ AT={{PSRR_MEASURE_FREQ}}



* ============================================================
* Output
* ============================================================

echo ========================================
echo POWER SUPPLY REJECTION RATIO
echo ========================================

print psrr_plus_ref_db
print psrr_minus_ref_db



* ============================================================
* Save Full Frequency Response
* ============================================================

wrdata "{{OUTPUT_PATH}}"
+ psrr_plus_db
+ psrr_minus_db


quit

.endc


.end